US07977331B1
To a solution of methyl 1-(2-tert-butoxycarbonylaminoethyl)-3-cyclohexyl-2-(2-hydroxymethylphenyl)-1H-indole-6-carboxylate (100 mg, 0.19 mmol) in chloroform (2 ml) was added triethylamine (0.04 ml, 0.28 mmol) and methanesulfonyl chloride (0.02 ml, 0.25 mmol) under ice-cooling, and the mixture was stirred under ice-cooling for 10 min. Water was added to the reaction mixture and the mixture was extracted with chloroform. The organic layer was so successively washed with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate solution and saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure to give methyl 1-(2-tert-butoxycarbonylaminoethyl)-3-cyclohexyl-2-(2-methanesulfonyloxymethylphenyl)-1H-indole-6-carboxylate as a crude product. The obtained crude product was used for Step 10 without purification.

reactant | methyl 1-(2-tert-butoxycarbonylaminoethyl)-3-cyclohexyl-2-(2-hydroxymethylphenyl)-1H-indole-6-carboxylate | 0.19 mmol, 100 mg | C(C)(C)(C)OC(=O)NCCN1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C1=C(C=CC=C1)CO | C30H38N2O5
reactant | triethylamine | 0.28 mmol, 0.04 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.25 mmol, 0.02 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 1-(2-tert-butoxycarbonylaminoethyl)-3-cyclohexyl-2-(2-methanesulfonyloxymethylphenyl)-1H-indole-6-carboxylate | C(C)(C)(C)OC(=O)NCCN1C(=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1)C1=C(C=CC=C1)COS(=O)(=O)C | C31H40N2O7S
